US04523030
27 g of 5-hydroxybenzocyclobutene-1-carboxylic acid methyl ester are dissolved in 2000 ml of dichloromethane and then 18 g of triethylamine are added. Over a period of 5 minutes, while stirring at 10°-20°, 25 g of benzoyl chloride are added in portions, stirring is carried out for 5 hours at room temperature, 200 ml of water are added and the organic phase is separated off, dried over magnesium sulphate and concentrated to dryness by evaporation. 5-benzoyloxybenzocyclobutene-1-carboxylic acid methyl ester is obtained in the form of a colourless, viscous oil.

reactant | 5-hydroxybenzocyclobutene-1-carboxylic acid methyl ester | 27 g | COC(=O)C1=CC2=C1C=C(C=C2)O | C10H8O3
reactant | triethylamine | 18 g | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 25 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | 200 ml | O | H2O
solvent | dichloromethane | 2000 ml | ClCCl | CH2Cl2
product | 5-benzoyloxybenzocyclobutene-1-carboxylic acid methyl ester | COC(=O)C1=CC2=C1C=C(C=C2)OC(C2=CC=CC=C2)=O | C17H12O4
